US03975537
2-n-Butyl-5-chlorobenzofuran (9.5 g., 0.046 mol.) was acylated with 8 g. (0.047 mol.) of anisoyl chloride as described in the procedure of Example 10 to give 2-n-butyl-5-chloro-3-(4'-methoxybenzoyl)benzofuran. Demethylation followed by reaction of the 2-n-butyl-5-chloro-3-(4'-hydroxybenzoyl)benzofuran with epichlorohydrin and subsequent opening of the epoxy compound formed with isopropylamine was carried out as described in the procedures of Examples 9 and 7 to give the title compound.

reactant | 2-n-Butyl-5-chlorobenzofuran | 0.046 mol, 9.5 g | C(CCC)C=1OC2=C(C1)C=C(C=C2)Cl | C12H13ClO
reactant | anisoyl chloride | 0.047 mol | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
product | 2-n-butyl-5-chloro-3-(4'-methoxybenzoyl)benzofuran | C(CCC)C=1OC2=C(C1C(C1=CC=C(C=C1)OC)=O)C=C(C=C2)Cl | C20H19ClO3
